US08937055B2
B) 4-[2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl]aniline
To a mixture of 2-methyl-5-[(E)-2-(4-nitrophenyl)ethenyl]-1,3,4-oxadiazole (2.00 g), tetrahydrofuran (75 mL) and methanol (75 mL) was added palladium-carbon (Pd: 10%, 50% in water, 200 mg), and the mixture was stirred under a hydrogen atmosphere at room temperature for 6 hr. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound (1.807 g).

reactant | 2-methyl-5-[(E)-2-(4-nitrophenyl)ethenyl]-1,3,4-oxadiazole | 2.00 g | CC=1OC(=NN1)\C=C\C1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3
reactant | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
solvent | methanol | 75 mL | CO | CH4O
product | 4-[2-(5-methyl-1,3,4-oxadiazol-2-yl)ethyl]aniline | 1.807 g | CC1=NN=C(O1)CCC1=CC=C(N)C=C1 | C11H13N3O
